US09376441B2
Preparation of (4R)-4-0R)-1-((3-cyclopropyl-6-(4-(6-(oxetan-3-yl)-3,6-diazabicyclo[3.1.1]heptan-3-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: Prepared by the procedure, previously described for the synthesis of 4-(4-bromophenyl)-1-(oxetan-3-yl)piperidine, using instead (4R)-4-((1R)-1-((6-(4-(3,6-diazabicyclo[3.1.1]heptan-3-yl)phenyl)- 3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: as a starting material to afford 10.1 mg (11%) of (4R)-4-((1R)-1-((3-cyclopropyl-6-(4-(6-(oxetan-3-yl)-3,6-diazabicyclo[3.1.1]heptan-3-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one:. 1H NMR (300 MHz, d6-DMSO) δ 8.22 (s, 1H), 7.98 (d, J=8.8 Hz, 2H), 7.61 (s, 1H), 7.57 (s, 1H), 6.78 (d, J=8.8 Hz, 2H), 5.57 (m, 1H), 4.57 (m, 2H), 4.27 (m, 2H), 3.78 (m, 4H), 3.42 (m, 1H), 3.22 (m, 2H), 2.84 (m, 1H), 2.34 (m, 3H), 1.53 (m, 1H), 1.41 (d, J=6.3 Hz, 3H), 1.18 (m, 7H). MS (ESI+) m/z 515.1 (M+H).

reactant | pyrrolidin-2-one | N1C(CCC1)=O | C4H7NO
reactant | 4-(4-bromophenyl)-1-(oxetan-3-yl)piperidine | BrC1=CC=C(C=C1)C1CCN(CC1)C1COC1 | C14H18BrNO
reactant | (4R)-4-((1R)-1-((6-(4-(3,6-diazabicyclo[3.1.1]heptan-3-yl)phenyl)- 3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | C12CN(CC(N1)C2)C2=CC=C(C=C2)C2=CC1=C(C(=N2)O[C@H](C)[C@@H]2CC(NC2)=O)N(C=N1)C1CC1 | C26H30N6O2
product | (4R)-4-((1R)-1-((3-cyclopropyl-6-(4-(6-(oxetan-3-yl)-3,6-diazabicyclo[3.1.1]heptan-3-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | 10.1 mg, 11% | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=C(C=C2)N2CC1N(C(C2)C1)C1COC1)O[C@H](C)[C@@H]1CC(NC1)=O | C29H34N6O3
